US09290485B2
e) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-(hydroxymethyl)benzyl)-1H-pyrazole-4-carboxamide
A mixture of [5-({[1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (50 mg, 0.11 mmol), 1 mL TFA and 2 mL DCM was stirred of room temperature for 2 h. The mixture was evaporated in vacuo and the residue was purified by preparative HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min). The product containing fractions were lyophilised, then dissolved in 1 mL MeOH and the resulting mixture was filtered over a MeOH flushed PL-HCO3 MP-resin column. The column was washed with MeOH, the solvent was removed and the product was dissolved in water/ACN and lyophilised to yield the title compound. 1H-NMR (DMSO-d6, 400 MHz) 8.24 (s, 1H), 7.93 (t, 1H), 7.88 (s, 1H), 7.28-7.30 (s, 2H), 7.21-7.23 (s, 2H), 6.15 (s, 1H), 5.78 (bs, 2H), 5.30 (s, 2H), 5.18 (t, 1H), 4.47 (d, 2H), 4.27 (d, 2H), 2.30 (s, 3H), 2.17 (s, 3H); LCMS (method A) RtA=0.128 min; [M+H]+=366.1.

reactant | [5-({[1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.11 mmol, 50 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CO)C)=O | C25H31N5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-(hydroxymethyl)benzyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CO)C | C20H23N5O2
